US05296508
B: 2-Methyl-6-Methoxy-1-Tetralone
2-Benzoyloxymethylene-6-methoxy-1-tetralone (4.6 g, 0.015 mole) was hydrogenated over platinum oxide (160 mg) in isopropyl alcohol (150 mL) at 55 psi in a Parr hydrogenation apparatus. After about 90 minutes hydrogen uptake ceased and the reaction was stopped. The catalyst was removed by filtration and the solvents were removed in vacuo. The title compound (2.0 g, 0.011 mole, 70% yield) was obtained after purification by flash chromatography [gradient 10:1 to 5:1 EtOAc:Hexanes].

reactant | 2-Benzoyloxymethylene-6-methoxy-1-tetralone | 0.015 mole, 4.6 g | C(C1=CC=CC=C1)(=O)OC=C1C(C2=CC=C(C=C2CC1)OC)=O | C19H16O4
reactant | hydrogen | [H][H] | H2
solvent | isopropyl alcohol | 150 mL | C(C)(C)O | C3H8O
catalyst | platinum oxide | 160 mg | [Pt]=O
product | 2-Methyl-6-Methoxy-1-Tetralone | 0.011 mole, 2.0 g, 70% yield | CC1C(C2=CC=C(C=C2CC1)OC)=O | C12H14O2
